US07851473B2
N-[3-(Methylthio)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and triethylamine (0.113 ml, 0.812 mmol) in tetrahydrofuran (2 ml) was added 3-methylthiophenyl isocyanate (0.168 ml, 1.22 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to give 168 mg (50.3%) of the desired product as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 0.812 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methylthiophenyl isocyanate | 1.22 mmol, 0.168 ml | CSC=1C=C(C=CC1)N=C=O | C8H7NOS
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-[3-(Methylthio)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 168 mg, 50.3% | CSC=1C=C(C=CC1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C20H21N5OS2
